US07399780B2
3-{5-[(4-Ethylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-2-hydroxy-1H-indole-5-carbonitrile hydrochloride
The title compound was prepared as described for Example 82 using 5-cyanooxindole and 1-[(6-chloropyridin-3-yl)sulfonyl]-4-ethylpiperazine. Yield: 4% of the title compound as a yellow solid: 1H NMR (DMSO-d6, 400 MHz) δ 11.15 (br s, 1 H), 10.75 (br s, 1 H), 8.56 (br s, 1 H), 8.04 (s, 1 H), 7.93-7.82 (m, 1 H), 7.73 (dd, J=9, 2 Hz, 1 H), 7.41 (dd, J=8, 1 Hz, 1 H), 7.05 (d, J=8 Hz, 1 H), 3.83-3.69 (m, 2 H), 3.69-3.42 (m, 2 H), 3.18-2.92 (m, 6 H), 1.20 (t, J=7.2 Hz, 3 H); MS (ES) m/z 412 (M++1).

reactant | 5-cyanooxindole | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]-4-ethylpiperazine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)CC | C11H16ClN3O2S
product | 3-{5-[(4-Ethylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-2-hydroxy-1H-indole-5-carbonitrile hydrochloride | Yield: 4% | Cl.C(C)N1CCN(CC1)S(=O)(=O)C=1C=CC(=NC1)C1=C(NC2=CC=C(C=C12)C#N)O | InChI=1S/C20H21N5O3S.ClH/c1-2-24-7-9-25(10-8-24)29(27,28)15-4-6-18(22-13-15)19-16-11-14(12-21)3-5-17(16)23-20(19)26;/h3-6,11,13,23,26H,2,7-10H2,1H3;1H
